US04638071
A. N-CBZ-S-(1-(4-methylcyclohex-3-enyl)isopropyl)-L-cysteine methyl ester
The ether is prepared from N-CBZ-L-cysteine methyl ester and α-limonene in a manner similar to that described in Example 1B. The product can be characterized by NMR spectroscopy.

reactant | N-CBZ-L-cysteine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CS)=O | C12H15NO4S
reactant | α-limonene | CC1=CCC(CC1)C(=C)C | C10H16
solvent | ether | CCOCC | C4H10O
product | N-CBZ-S-(1-(4-methylcyclohex-3-enyl)isopropyl)-L-cysteine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CSC(C)(C)C1CC=C(CC1)C)=O | C22H31NO4S
